US04859684
(a-3) 11.55 Parts of (1-hydroxy-2-methyl-1H-benzimidazol-5-yl) phenyl methanone monohydrochloride were added to a stirred solution of 1.84 parts of sodium in 80 parts of methanol. After stirring for 15 minutes at room temperature, the solvent was evaporated and the residue was taken up in methylbenzene. After evaporation, the residue was dissolved in 54 parts of N,N-dimethylformamide and 6.24 parts of iodomethane were added. The reaction mixture was stirred for 2 hours at room temperature. The N,N-dimethylformamide layer was evaporated in vacuo. The residue was taken up in water and the product was extracted with methylbenzene. The extract was dried, filtered and evaporated. The residue was washed with 2,2'-oxybispropane, yielding 6.4 parts (60.0%) of (1-methoxy-2-methyl-1H-benzimidazol-5-yl) phenylmethanone; mp. 67.7° C. (int. 50).

reactant | (1-hydroxy-2-methyl-1H-benzimidazol-5-yl) phenyl methanone monohydrochloride | Cl.ON1C(=NC2=C1C=CC(=C2)C(=O)C2=CC=CC=C2)C
reactant | sodium | [Na] | Na
reactant | methanol | CO | CH4O
product | (1-methoxy-2-methyl-1H-benzimidazol-5-yl) phenylmethanone | 60.0% | CON1C(=NC2=C1C=CC(=C2)C(=O)C2=CC=CC=C2)C | C16H14N2O2
